US07595327B2
To the stirred solution of 373 mg of tert-butyl cis-4-[({4-[(2-methylquinolin-4-yl)methoxy]phenyl}sulfonyl)amino]pyrrolidine-3-carboxylate hydrochloride in 8 mL of N,N-dimethylformamide and 0.5 mL of Hunig's base was slowly added 104 mg of methanesulfonyl chloride. The solution was stirred at room temperature overnight. After removal of the N,N-dimethylformamide in vacuo, the residue was dissolved in 80 mL of ethyl acetate. The ethyl acetate solution was washed with water and saturated sodium chloride solution, dried over magnesium sulfate, filtered and concentrated in vacuo. The residue was chromatographed on silica gel eluting with ethyl acetate/hexane to provide 233 mg of tert-butyl cis-4-[({4-[(2-methylquinolin-4-yl)methoxy]phenyl}sulfonyl)amino]-1-(methylsulfonyl)pyrrolidine-3-carboxylate in 58% yield. MS: 576.1 (M+H)+

reactant | tert-butyl cis-4-[({4-[(2-methylquinolin-4-yl)methoxy]phenyl}sulfonyl)amino]pyrrolidine-3-carboxylate hydrochloride | 373 mg | Cl.CC1=NC2=CC=CC=C2C(=C1)COC1=CC=C(C=C1)S(=O)(=O)N[C@@H]1[C@@H](CNC1)C(=O)OC(C)(C)C
reactant | methanesulfonyl chloride | 104 mg | CS(=O)(=O)Cl | CH3ClO2S
solvent | N,N-dimethylformamide | 8 mL | CN(C=O)C | C3H7NO
solvent | Hunig's base | 0.5 mL | CCN(C(C)C)C(C)C | C8H19N
product | tert-butyl cis-4-[({4-[(2-methylquinolin-4-yl)methoxy]phenyl}sulfonyl)amino]-1-(methylsulfonyl)pyrrolidine-3-carboxylate | 233 mg, 58% yield | CC1=NC2=CC=CC=C2C(=C1)COC1=CC=C(C=C1)S(=O)(=O)N[C@@H]1[C@@H](CN(C1)S(=O)(=O)C)C(=O)OC(C)(C)C | C27H33N3O7S2
